* ============================================================
* Circuit : fixed_height
* Source  : ALIGN analog layout examples
* File    : fixed_height\fixed_height.sp
* ============================================================
* Stats:
*   Subcircuits  : 4
*   Devices (M)  : 0
*   Device types : none
*   Passives     : 0 resistors, 0 capacitors
* Note: Converted from FinFET-style to CMOS-style netlist.
* SIZES CONVERTED 2026-07-10 scale=7.14286 source_L_ref=0.014um
*       Device/passive sizes are scaled from the real source-netlist values
*       (see marker above) -- not random placeholders.
* ============================================================
.subckt buf y a
* @: Generator(name='black_box')
.ends buf

.subckt inv y a
* @: Generator(name='black_box')
.ends inv

.subckt nand y a b
* @: Generator(name='black_box')
.ends nand

.subckt fixed_height z a b c d
x0 y0 a b nand
x1 y1 c d nand
x2 y2 y0 y1 nand
x3 y3 y2 inv
x4 z y3 buf
.ends fixed_height
